US08492548B2
5-Ethylthiophene-3-carbonyl chloride (224 mg, 1.28 mmol) was dissolved in dry CH3CN (10 ml) and cooled at 0° C., under nitrogen atmosphere. (Diazomethyl)-trimethylsilane (1.92 ml, 3.85 mmol, 2M in hexane) was slowly added, and the resulting reaction was stirred at room temperature for 18 hours. Then the reaction was cooled at 0° C. and 48% HBr was added dropwise. The reaction was stirred at 0° C. for 2 hours. Smashed ice was added to the mixture, and then sodium bicarbonate was added until pH is about 7. The solution was extracted with EtOAc, and the organic layer was separated, dried over sodium sulfate, filtered and evaporated under reduced pressure. The crude was purified by flash chromatography (Petroleum ether/EtOAc=9/1) to obtain 2-bromo-1-(5-ethylthiophen-3-yl)ethanone (97 mg, 32.4% yield).

reactant | 5-Ethylthiophene-3-carbonyl chloride | 1.28 mmol, 224 mg | C(C)C1=CC(=CS1)C(=O)Cl | C7H7ClOS
reactant | (Diazomethyl)-trimethylsilane | 3.85 mmol, 2M, 1.92 ml | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | HBr | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 2-bromo-1-(5-ethylthiophen-3-yl)ethanone | 97 mg, 32.4% yield | BrCC(=O)C1=CSC(=C1)CC | C8H9BrOS
